US07816371B2
a. (S)-tert-Butyl 2-((5-nitro-1-oxoisoquinolin-2(1H)-yl)methyl)pyrrolidine-1-carboxylate
Into a round bottom flask was combined 5-nitro-isochromen-1-one (3.50 g, 0.0165 mol), (S)-tert-butyl 2-(aminomethyl)pyrrolidine-1-carboxylate (4.12 g, 0.0206 mol) and methanol (100.0 mL, 2.469 mol). The mixture was heated at reflux for 2 hours. The mixture was allowed to cool and the volatiles were removed under reduced pressure. The crude oil was chromatographed using a methylene chloride:methanol (0-10%) gradient. The combined pure fractions were reduced in vacuo to yield the title compound as a yellow solid.

reactant | 5-nitro-isochromen-1-one | 0.0165 mol, 3.50 g | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1)=O | C9H5NO4
reactant | (S)-tert-butyl 2-(aminomethyl)pyrrolidine-1-carboxylate | 0.0206 mol, 4.12 g | NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | methanol | 2.469 mol, 100.0 mL | CO | CH4O
product | (S)-tert-Butyl 2-((5-nitro-1-oxoisoquinolin-2(1H)-yl)methyl)pyrrolidine-1-carboxylate | [N+](=O)([O-])C1=C2C=CN(C(C2=CC=C1)=O)C[C@H]1N(CCC1)C(=O)OC(C)(C)C | C19H23N3O5
